US08530648B2
b) 2-(2-(chloromethyl)-4-methylphenyl)-2H-1,2,3-triazole
To a stirred solution of (5-methyl-2-(2H-1,2,3-triazol-2-yl)phenyl)methanol (100 mg, 0.53 mmol) in chloroform (3 mL), thionyl chloride (76 mg, 0.63 mmol) was added dropwise at 0° C. and stirred for 1 h. Then the mixture was allowed to warm to rt and stirred overnight. The reaction mixture was concentrated under reduced pressure. Saturated aqueous NaHCO3 solution (5 mL) was added and extracted with ethyl acetate (2×). The combined organic layers were washed with brine and dried over anhydrous Na2SO4, filtered and evaporated under reduced pressure to yield the title compound (100 mg, 91%). [TLC Rf=0.59 (ethyl acetate/hexane 30:70)].

reactant | (5-methyl-2-(2H-1,2,3-triazol-2-yl)phenyl)methanol | 0.53 mmol, 100 mg | CC=1C=CC(=C(C1)CO)N1N=CC=N1 | C10H11N3O
reactant | thionyl chloride | 0.63 mmol, 76 mg | S(=O)(Cl)Cl | Cl2OS
solvent | chloroform | 3 mL | C(Cl)(Cl)Cl | CHCl3
product | 2-(2-(chloromethyl)-4-methylphenyl)-2H-1,2,3-triazole | 100 mg, 91% | ClCC1=C(C=CC(=C1)C)N1N=CC=N1 | C10H10ClN3
